US06903085B1
Step i: Ethyl 2-pyrimidinyloxyacetate
Ethyl glycolate (1.04 g) was dissolved in tetrahydrofuran (10 ml) and the solution was cooled to 0° C. Sodium hydride (60% suspension in oil, 0.43 g) was added and the suspension was stirred and then sonicated in an ultrasonic bath. 2-Chloropyrimidine (1.14 g) was added and the mixture was sonicated for a further 110 min. Ammonium chloride solution was added and the mixture was extracted thrice with ethyl acetate, the organic phases were washed with brine and dried, filtered and evaporated. The residue was purified by chromatography eluting with iso-hexane:ethyl acetate (13:7) to give the subtitle compound (1.40 g) as an oil.

reactant | Ethyl glycolate | 1.04 g | C(CO)(=O)OCC | C4H8O3
reactant | Sodium hydride | 0.43 g | [H-].[Na+]
reactant | 2-Chloropyrimidine | 1.14 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Ethyl 2-pyrimidinyloxyacetate | 1.40 g | N1=C(N=CC=C1)OCC(=O)OCC | C8H10N2O3
